US08937083B2
To a solution of N-(1-(5-fluoropyridin-3-yl)-3-(hydroxymethyl)-1H-pyrazol-4-yl)isobutyramide (0.100 g, 0.359 mmol) in dichloromethane (3.59 ml) was added thionyl chloride (0.157 ml, 2.151 mmol). The reaction was stirred at room temperature for 2 hours. Saturated aqueous sodium bicarbonate was added, and the mixture was extracted with dichloromethane. The combined organic phases were washed with brine and concentrated to give N-(3-(chloromethyl)-1-(5-fluoropyridin-3-yl)-1H-pyrazol-4-yl)isobutyramide (100 mg, 0.337 mmol, 94% yield) as a white solid: mp 172.0-177.0° C.; 1H NMR (400 MHz, CDCl3) δ 8.79 (s, 1H), 8.67 (s, 1H), 8.40 (s, 1H), 7.80 (dt, J=9.4, 2.3 Hz, 1H), 7.42 (s, 1H), 4.77 (s, 2H), 2.63 (hept, J=6.9 Hz, 1H), 1.30 (d, J=6.9 Hz, 6H); ESIMS m/z 298 ([M+H]+).

reactant | N-(1-(5-fluoropyridin-3-yl)-3-(hydroxymethyl)-1H-pyrazol-4-yl)isobutyramide | 0.359 mmol, 0.100 g | FC=1C=C(C=NC1)N1N=C(C(=C1)NC(C(C)C)=O)CO | C13H15FN4O2
reactant | thionyl chloride | 2.151 mmol, 0.157 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 3.59 ml | ClCCl | CH2Cl2
product | N-(3-(chloromethyl)-1-(5-fluoropyridin-3-yl)-1H-pyrazol-4-yl)isobutyramide | 0.337 mmol, 100 mg, 94% yield | ClCC1=NN(C=C1NC(C(C)C)=O)C=1C=NC=C(C1)F | C13H14ClFN4O
